US07091228B2
A mixture of 4-acetyl-3-methylphenyl trifluoromethanesulfonate (6.90 g, 24.0 mmol), 4-nitrophenylboronic acid (3.80 g, 24 mmol), 2 N aqueous sodium carbonate (88.0 mL), dioxane (88.0 mL), and toluene (296 mL) was purged with argon for 30 minutes before [1,1′-bis(diphenyl-phosphino)-ferrocene]dichloro palladium(II) (1:1 complex with dichloromethane, 1.90 g, 2.30 mmol) was added. The reaction mixture was heated at 85° C. and stirred overnight. The layers were separated and the organic layer was washed with water (2×50 mL), dried over magnesium sulfate, and concentrated under reduced pressure to give a dark brown oil. This material was purified by flash chromatography (7 to 20% ethyl acetate/hexane) to give 1-(3-methyl-4′-nitro-1,1′-biphenyl-4-yl)ethanone as a light yellow solid (6.12 g, 99% yield). GC-MS m/z 255 (M+), ret. time 9.89 min; 1H NMR (CDCl3) δ: 2.61 (s, 3H), 2.62 (s, 3H), 7.49–55 (m, 2H), 7.78 (d, 2H), 7.81 (d, 1H), 8.32 (d, 2H).

reactant | 4-acetyl-3-methylphenyl trifluoromethanesulfonate | 24.0 mmol, 6.90 g | FC(S(=O)(=O)OC1=CC(=C(C=C1)C(C)=O)C)(F)F | C10H9F3O4S
reactant | 4-nitrophenylboronic acid | 24 mmol, 3.80 g | [N+](=O)([O-])C1=CC=C(C=C1)B(O)O | C6H6BNO4
reactant | sodium carbonate | 2 N, 88.0 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | dioxane | 88.0 mL | O1CCOCC1 | C4H8O2
solvent | toluene | 296 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(3-methyl-4′-nitro-1,1′-biphenyl-4-yl)ethanone | 6.12 g, 99% yield | CC=1C=C(C=CC1C(C)=O)C1=CC=C(C=C1)[N+](=O)[O-] | C15H13NO3
